US07456165B2
Methyl 13-cyclohexyl-3-methoxy-6-(5-(3-methoxy-3-oxopropyl)-1,3-oxazol-2-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate.
Methyl 13-cyclohexyl-3-(methyloxy)-6-(((5-(methyloxy)-2,5-dioxopentyl)amino)carbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate (1.60 g, 2.79 mMol) was suspended in 38 ml of toluene along with phosphorus oxychloride (0.58 mL, 6.34 mMol). The mixture was heated to reflux under nitrogen for 3 hrs, cooled and poured into a sepratory funnel containing ice and saturated aqueous sodium bicarbonate solution. The aqueous mixture was extracted with ethyl acetate. The organic layer was washed sequentially with aqueous saturated bicarbonate, brine and dried over magnesium sulfate. Removal of volatiles and drying in vacuuo produced the title product in quantitative yield (1.55 g). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 1.27 (1 H, br. s.), 1.36-1.45 (2 H, m), 1.59 (2 H, br. s.), 1.78 (2 H, d, J=9.77 Hz), 1.96 (1 H, br. s.), 2.06 (2 H, br. s.), 2.71 (2 H, t, J=7.48 Hz), 2.81-2.90 (1 H, m), 3.04 (2 H, t, J=7.32 Hz), 3.70 (3 H, s), 3.95 (3 H, s), 3.98 (3 H, s), 4.37 (1 H, d, J=11.60 Hz), 5.93 (1 H, d, J=12.51 Hz), 6.91 (1 H, s), 7.02 (1 H, d, J=2.75 Hz), 7.07 (1 H, dd, J=8.70, 2.59 Hz), 7.53 (2 H, s), 7.74 (1 H, d, J=8.55 Hz), 7.85 (1 H, d, J=8.55 Hz), 8.38 (1 H, s). HPLC analysis: Shimadzu Analytical HPLC using Discovery VP software: % A=10% methanol, 90% water, 0.1% trifluoroacetic acid; % B=90% methanol, 10% water, 0.1% trifluoroacetic acid; Initial % B=50; Final % B=100; Gradient=5 min; Runtime=6 min; Flow rate=5 ml/min; Wavelength=220 nm; Column=Phenomenex Luna 3.0 mm×50 mm S10; Retention Time=4.48 min, purity 96%. Flow injection Mass Spectrometry: MS m/z 555(MH+).

reactant | Methyl 13-cyclohexyl-3-(methyloxy)-6-(((5-(methyloxy)-2,5-dioxopentyl)amino)carbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate | 2.79 mMol, 1.60 g | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)NCC(CCC(=O)OC)=O)C=C(C=C1)OC)C(=O)OC | C33H36N2O7
reactant | phosphorus oxychloride | 6.34 mMol, 0.58 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 38 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 13-cyclohexyl-3-methoxy-6-(5-(3-methoxy-3-oxopropyl)-1,3-oxazol-2-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate | quantitative yield | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C=2OC(=CN2)CCC(=O)OC)C=C(C=C1)OC)C(=O)OC | C33H34N2O6
